US05708174
a) Methylthiochroman-4-ol-8-carboxylate
Methylthiochroman-4-one-8-carboxylate (0.500 g, 2.25mmol) was dissolved with stirring in ethanol (20 ml) and treated with sodium borohydride (0.085 g, 2.25 mmol). After 1 h, the reaction mixture was evaporated under reduced pressure and the residue partitioned between ethyl acetate and water. The aqueous layer was then extracted with ethyl acetate (1 x) and the combined organic layers were dried (Na2SO4) and evaporated under reduced pressure to give a yellow oil, which was purified by silica-gel chromatography (1:1 Pentane:EtOAc as eluant) to give the title compound as a colourless oil (0.499 g, 99%)

reactant | Methylthiochroman-4-one-8-carboxylate | 2.25mmol, 0.500 g | COC(=O)C=1C=CC=C2C(CCSC12)=O | C11H10O3S
reactant | sodium borohydride | 2.25 mmol, 0.085 g | [BH4-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Methylthiochroman-4-ol-8-carboxylate | 0.499 g, 99% | COC(=O)C=1C=CC=C2C(CCSC12)O | C11H12O3S
